US06534546B1
Synthesis of N-(4-hydroxymethyl-2-methylphenyl)carbamic acid t-butyl ester
Lithium aluminum hydride (5.02 g) was suspended in tetrahydrofuran (300 ml). To the suspension, 4-amino-3-methylbenzoic acid (10.53 g) was added slowly at room temperature and the reaction mixture was heated under reflux for 3 h. After addition of ethyl acetate and water, the reaction mixture was stirred for 30 min and then Celite and anhydrous sodium sulfate were added. The resulting reaction mixture was filtered and the filterate was concentrated under reduced pressure to give a crude procudt. Then, water, sodium hydroxide (3.07 g) and di-t-butyl dicarbonate (15.2 g) were successively added to the crude product, which was stirred overnight at room temperature. Ethyl acetate was added to the reaction mixture and, after washing with water once, the organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexne:ethyl acetate=5:1) to give 7.658 g of the titled compound (yield, 46%).

reactant | Lithium aluminum hydride | 5.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-amino-3-methylbenzoic acid | 10.53 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 3.07 g | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 15.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(4-hydroxymethyl-2-methylphenyl)carbamic acid t-butyl ester | 7.658 g, 46% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)CO)C)=O | C13H19NO3
